Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Pre-syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of hypertension, SVT status post ablation, 
presenting with recurrent episodes of presyncope where she 
states that she feels a rush of warmth up her belly and into her 
head, unable to concentrate, and feel that she is about to pass 
out. She states the feeling is like when receiving adenosine and 
has a difficult time describing it. She does say it is different 
than her SVT from ___, and at that time she could feel 
palpitations while now she does not feel her heart race. She 
denies any prodromal symptoms and any frank LOC. Also denies, 
nausea/vomiting, diarrhea, diaphoresis, vertigo, headache, or 
seizure-like activity. The episodes began 2 weeks prior, and 
started at a frequency of ___. They steadily increased and 
today she had about 15 episodes. They mostly happen when she is 
sitting but can happen in any setting. They are not associated 
with getting up from sitting to standing. Of note, patient does 
have significant life stressors including an ongoing divorce and 
also losing her home. She does acknowledge the possibility of 
these being panic attacks.
In ___, patient was found to be in a narrow complex tachycardia 
at a rate of 200 beats per minute. She was given Adenosine x1 
which successfully broke her rhythm. She was admitted overnight 
and the following morning had another episode of SVT at a rate 
of 150bpm. She was again treated with adenosine which converted 
her back to sinus rhythm. She was discharged home on Diltiazem, 
and subsequently underwent ablation at ___
In the ED, initial vs were 98 70 186/89 18 100% . BP went down 
to 135/75. Labs revealed negative troponin, normal chem 10, and 
CBC with macrocytic red blood cell indices, although no anemia. 
EKG Received aspirin 81 mg.
REVIEW OF SYSTEMS:
Denies fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.
All other 10-system review negative in detail. 
 
Past Medical History:
SVT s/p ablation in ___
HTN
Tobacco abuse
Hepatitis B of unclear etiology
Asthma 
 
Social History:
___
Family History:
Mother and Aunt with breast cancer. Diabetes in mother and 
brother
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS 98.7 150/93 68 18 99% RA
GEN Alert, oriented, no acute distress
HEENT NCAT MMM EOMI sclera anicteric, OP clear
NECK supple, no JVD, no LAD
PULM scattered wheezes
CV RRR normal S1/S2, no mrg
ABD soft NT ND normoactive bowel sounds, no r/g
EXT WWP 2+ pulses palpable bilaterally, no c/c/e
NEURO CNs2-12 intact, motor function grossly normal
SKIN no ulcers or lesions 

DISCHARGE EXAM
VS 98.3 142/64 60 18 99% RA  
Orthostatics yesterday- supine 128/72, 65-->standing 144/81, 69  

GEN Alert, oriented, no acute distress  
HEENT NCAT MMM EOMI sclera anicteric, OP clear  
NECK supple, no JVD, no LAD  
PULM scattered wheezes  
CV RRR normal S1/S2, no mrg  
ABD soft NT ND normoactive bowel sounds, no r/g  
EXT WWP 2+ pulses palpable bilaterally, no c/c/e  
NEURO CNs2-12 intact, motor function grossly normal  
SKIN no ulcers or lesions  

 
Pertinent Results:
Admission Labs

___ 03:50PM   WBC-10.3 RBC-4.56 HGB-15.6 HCT-48.0 MCV-105*# 
MCH-34.3* MCHC-32.6 RDW-12.0
___ 03:50PM   NEUTS-64.2 ___ MONOS-7.6 EOS-1.5 
BASOS-1.0
___ 03:50PM   PLT COUNT-255
___ 03:50PM   GLUCOSE-93 UREA N-8 CREAT-0.6 SODIUM-140 
POTASSIUM-4.0 CHLORIDE-102 TOTAL CO2-25 ANION GAP-17
___ 03:50PM   estGFR-Using this
___ 03:50PM   cTropnT-<0.01
___ 03:50PM   TSH-2.8
___ 03:50PM URINE  HOURS-RANDOM
___ 03:50PM URINE  UHOLD-HOLD

Discharge Labs

___ 07:10AM BLOOD WBC-8.0 RBC-4.40 Hgb-14.7 Hct-46.6 
MCV-106* MCH-33.5* MCHC-31.6 RDW-12.4 Plt ___
___ 07:10AM BLOOD Glucose-85 UreaN-11 Creat-0.6 Na-137 
K-4.2 Cl-103 HCO3-23 AnGap-15

Reports

ECG
Sinus arrhythmia at lower limits of normal rate. No previous 
tracing available for comparison. There is considerable 
artifact. Consider repeat tracing if clinically indicated. 
  

 
Brief Hospital Course:
Impression: ___ y/o F with PMHx of SVT s/p ablation, HTN, asthma 
who presented for recurrent pre-syncopal episodes for 2 weeks 
duration thought to be due to anxiety

#Pre-syncopal episodes- Initial concerns were for recurrent SVT 
vs. new arrhythmia vs. structural heart disease (i.e atrial 
myxoma) vs. hyperthyroidism vs. vs. anxiety vs. autonomic 
instability vs. orthostasis. Her symptomatology was quite 
different than her presentation ___ years prior per record review. 
She does not feel palpitations and is at a normal rate, which 
makes structural disease somewhat more likely. Patient was 
placed on telemetry overnight, which did not reveal SVT but 
confirmed sinus arrhythmia.  Echocardiography was considered, 
but give no murmer, unremarkable ECG, and lack of family 
history, this was deferred.  Orthostatics were negative.  
Laboratory workup was negative for anemia or thyroid disease.  
Her history was remarkable for significant stressors, including 
losing her home and going through a divorce.  We offered her 
social work consult but she politely declined.  Stated she will 
seek counsel through recommendations with her PCP.  She was also 
discharged with ___ of hearts monitor to ensure no intrinsic 
arrhythmia.   

#HTN- Pt had currently been on atenolol and amlodipine with 
baseline BPs in the 130s to 160s, but amlodipine recently 
stopped by patient due to leg swelling. Presented to ED in the 
180s and came down to the 150s without. We continued home 
atenolol 50 mg BID.

#Asthma- not currently taking any outpatient meds. Pt was found 
to have wheezes on exam and given albuterol nebs q 6 hrs prn and 
was discharged on albuterol inhaler

#Transitional Issues
-Pt will follow up with PCP, ___ will follow up 
results ___ of hearts monitor

-Pt may benefit from social support, therapy, or psych resources 
given stressors.  She states she wants to seek a counselor and 
that she has resources through her PCP. She politely declined 
our help in seeking one.

-As stated earlier, patient was wheezy on exam. Stated she has 
asthma but did not have medications at home. Will be discharged 
with an albuterol inhaler and told to follow up on this issue 
with PCP.
  
CODE: Full (confirmed with patient ___  
EMERGENCY CONTACT: Brother ___ ___ HCP? Y/N  
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO BID 

 
Discharge Medications:
1. Atenolol 50 mg PO BID 
2. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheezing 
RX *albuterol  ___ puffs inhaled every 6 hours as needed Disp 
#*1 Inhaler Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
-Pre-syncope

Secondary
-Hx of SVT s/p ablation
-Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms ___,

It was a pleasure taking care of you while at ___.  You were 
admitted for "pre-syncopal" episodes where you felt like you 
were going to pass out.  We monitored your heart rhythm on 
telemetry overnight which showed it was at a normal rate.  We 
reviewed your outside records and it appears you have had a 
normal echocardiogram from ___, which is reassuring.

Please wear your ___ of Hearts", which is a cardiac event 
monitor, and press the button should your symptoms come back.  
Your PCP, ___ follow up the results.

Please follow up with your PCP as scheduled below
 
Followup Instructions:
___